US07723399B2
a) Preparation of N-Hydroxyphthalimide Sodium Salt
118 g (0.723 mol) of N-hydroxyphthalimide are suspended in 700 ml of ethanol absolute. To this suspension a solution of 16.65 g (0.723 mol) of sodium in 400 ml of ethanol absolute is added dropwise under stirring. The resulting red suspension is stirred for 19 h at room temperature. The so formed red solid is sucked off, washed with 100 ml of ethanol abs. and dried in vacuo to give 133 g of a red solid.

reactant | N-hydroxyphthalimide | 0.723 mol, 118 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | sodium | 0.723 mol, 16.65 g | [Na] | Na
solvent | ethanol absolute | 700 ml | CCO | C2H6O
solvent | ethanol absolute | 400 ml | CCO | C2H6O
product | N-Hydroxyphthalimide Sodium Salt | 133 g | [Na].ON1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C8H5NO3.Na/c10-7-5-3-1-2-4-6(5)8(11)9(7)12;/h1-4,12H;
